US08975254B2
c) 4-(1-(2-Aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile
The title compound was prepared from 2-nitro-4-(1H-pyrazol-5-yl)benzonitrile (0.828 g, 3.87 mmol) and tert-butyl 2-hydroxyethylcarbamate (0.748 g, 4.64 mmol) using the method of Example 34(c) affording 0.633 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 3.21-3.29 (m, 2H), 4.02-4.04 (m, 2H), 7.02 (d, 1H), 7.88 (d, 1H), 8.13 (d, 1H), 8.29 (m, 1H), 8.50 (d, 1H).

reactant | 2-nitro-4-(1H-pyrazol-5-yl)benzonitrile | 3.87 mmol, 0.828 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1 | C10H6N4O2
reactant | tert-butyl 2-hydroxyethylcarbamate | 4.64 mmol, 0.748 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
product | 4-(1-(2-Aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 0.633 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C12H11N5O2
